US07645789B2
To a solution of 2-cyclopropyl-5-nitro-1H-indole (1.3 g, 6.4 mmol) in MeOH (30 mL) was added Raney Nickel (0.3 g) under nitrogen atmosphere. The mixture was stirred under hydrogen atmosphere (1 atm) at room temperature overnight. The catalyst was filtered through a Celite pad and the filtrate was evaporated under vacuum to give the crude product, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=5/1) to give 2-cyclopropyl-1H-indol-5-amine (510 mg, 56%). 1H NMR (400 MHz, CDCl3) δ 6.89 (d, J=8.4 Hz, 1H), 6.50 (d, J=1.6 Hz, 1H), 6.33 (dd, J=2.0, 8.4 Hz, 1H), 5.76 (s, 1H), 4.33 (brs, 2H), 1.91-1.87 (m, 1H), 0.90-0.85 (m, 2H), 0.70-0.66 (m, 2H); MS (ESI) m/e (M+H+) 173.2.

reactant | 2-cyclopropyl-5-nitro-1H-indole | 6.4 mmol, 1.3 g | C1(CC1)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H10N2O2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Raney Nickel | 0.3 g | [Ni] | Ni
product | 2-cyclopropyl-1H-indol-5-amine | 510 mg, 56% | C1(CC1)C=1NC2=CC=C(C=C2C1)N | C11H12N2
